US07696213B2
2-Amino-6-bromo-8-(trans-4-hydroxycyclohexyl)-4-methylpyrido[2,3-d]pyrimidin-7(8H)-one
To a solution of 2-amino-8-(trans-4-hydroxycyclohexyl)-4-methylpyrido[2,3-d]pyrimidin-7(8H)-one (115 mg, 0.419 mmol) in dimethylformamide (2.0 mL) was added N-bromosuccinimide (75 mg, 0.42 mmol). After stirring for 1.5 hr at room temperature the solution was concentrated. The residue was slurried in methanol, filtered solids, and the filtrated was concentrated and purified by flash chromatography eluting with chloroform/7 N ammonia in methanol (0.5-3%). Combined solids to afford the title compound (120 mg, 81%).

reactant | 2-amino-8-(trans-4-hydroxycyclohexyl)-4-methylpyrido[2,3-d]pyrimidin-7(8H)-one | 0.419 mmol, 115 mg | NC=1N=C(C2=C(N1)N(C(C=C2)=O)[C@@H]2CC[C@H](CC2)O)C | C14H18N4O2
reactant | N-bromosuccinimide | 0.42 mmol, 75 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dimethylformamide | 2.0 mL | CN(C=O)C | C3H7NO
product | 2-Amino-6-bromo-8-(trans-4-hydroxycyclohexyl)-4-methylpyrido[2,3-d]pyrimidin-7(8H)-one | 120 mg, 81% | NC=1N=C(C2=C(N1)N(C(C(=C2)Br)=O)[C@@H]2CC[C@H](CC2)O)C | C14H17BrN4O2
